US05441949
To a solution of 2-benzylidene-6-nitroquinoline (4.9 g; 17.7 mM) in pyridine (36.6 ml) and water (8 ml) was added portion wise KMnO4 (7.5 g; 47.8 mM) keeping the temperature between 18 and 20° C. After filtration on celite, the solution was acidified (pH3), at 0° C., with H2SO4 (65%). The resulting precipitate was filtered, washed with water and ether and then dried to give 2-carboxy-6-nitroquinoline (1.5 g; 39%).

reactant | 2-benzylidene-6-nitroquinoline | 17.7 mM, 4.9 g | C(C1=CC=CC=C1)=C1NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C16H12N2O2
reactant | KMnO4 | 47.8 mM, 7.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | 8 ml | O | H2O
solvent | pyridine | 36.6 ml | N1=CC=CC=C1 | C5H5N
product | 2-carboxy-6-nitroquinoline | 1.5 g, 39% | C(=O)(O)C1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C10H6N2O4
